US06005000
Hydrogenolysis of 800 mg (2.3 mmol) of 4-hydroxy-5-methyl-5-[4-(2-methylpropyl)phenyl]-3-phenylmethoxy-2(5H)-furanone was performed in a similar manner as described in the preparation of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provided 500 mg (84% yield) of 3,4-dihydroxy-5-methyl-5-[4-(2-methylpropyl)phenyl]-2(5H)-furanone as a light yellow crystalline material: mp 135-150° C. dec. 1H NMR (acetone-d6) δ 7.40-7.17 (m, 4H), 2.46 (d, 2H, J=7.1 Hz), 1.87-1.82 (m, 1H), 1.82 (s, 3H), 0.87 (d, 6H, J=6.6 Hz). 13C NMR (acetone-d6) δ 169.5, 157.2, 142.4, 138.0, 129.8, 125.9, 117.9, 81.3, 45.3, 30.8, 24.5. 22.5. Anal Calcd for C15H18O4 +0.25 H2O: C, 67.53; H, 6.99. Found: C, 67.78; H, 7.09.

reactant | 4-hydroxy-5-methyl-5-[4-(2-methylpropyl)phenyl]-3-phenylmethoxy-2(5H)-furanone | 2.3 mmol, 800 mg | OC1=C(C(OC1(C1=CC=C(C=C1)CC(C)C)C)=O)OCC1=CC=CC=C1 | C22H24O4
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
product | 3,4-dihydroxy-5-methyl-5-[4-(2-methylpropyl)phenyl]-2(5H)-furanone | 500 mg, 84% yield | OC=1C(OC(C1O)(C1=CC=C(C=C1)CC(C)C)C)=O | C15H18O4
